US07470679B2
(S)-methyl 2-(1,4-dichloro-8-oxo-9-(2-(piperidin-1-yl)ethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate
(S)-Dimethyl 2-((3,7-dichloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate (990 mg, 2.64 mmol) was dissolved in thionyl chloride (2.0 M in dichloromethane) (20 mL, 40.0 mmol). Mixture stirred at room temperature for 3 hours. Mixture was concentrated by roto-vap. Residue was dissolved in ethyl acetate. Mixture was washed twice with aqueous sodium bicarbonate. Organics were dried MgSO4, filtered and then concentrated to dryness. A portion of the residue (460 mg, 1.169 mmol) was dissolved in acetonitrile (15 mL). 1-(2-Aminoethyl)-piperidine (600 μl, 4.21 mmol) was added to the mixture followed by potassium carbonate (200 mg, 1.447 mmol). Mixture was warmed to reflux and held with stirring for 1 hour. Mixture was cooled to room temperature and then filtered over celite. Filtrate was concentrated by roto-vap. Residue was dissolved in toluene (15 mL). Acetic acid (1.0 mL, 17.47 mmol) was added to the mixture. Reaction was warmed to reflux and held with stirring for 16 hours. Mixture was cooled to room temperature and then concentrated by roto-vap. Residue was suspended in ethyl acetate. Mixture was washed twice with aqueous sodium bicarbonate and the aqueous phase was discarded. Organics were dried MgSO4, filtered and then concentrated to dryness. Silica gel chromatography eluting 2M ammonia in methanol-dichloromethane afforded the title compound as amber oil in 51% yield. (M+H)+=453.0, 455.0.

reactant | (S)-Dimethyl 2-((3,7-dichloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate | 2.64 mmol, 990 mg | ClC1=NNC2=C(C=C(C(=C12)CO)C[C@H](C(=O)OC)CC(=O)OC)Cl | C15H16Cl2N2O5
reactant | thionyl chloride | 40.0 mmol, 2.0 M, 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2-Aminoethyl)-piperidine | 4.21 mmol, 600 μl | NCCN1CCCCC1 | C7H16N2
reactant | potassium carbonate | 1.447 mmol, 200 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Acetic acid | 17.47 mmol, 1.0 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | (S)-methyl 2-(1,4-dichloro-8-oxo-9-(2-(piperidin-1-yl)ethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate | 51% yield | ClC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)OC)=O)CCN3CCCCC3)Cl | C21H26Cl2N4O3
